datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C)OOCC(=O)[O-:10].COc1ccc(S(=O)(=O)NCC[N+:21]2([H:20])CCOCC2)c(OC)c1OC>>CC(C)(C)OOCC(=O)[O:10][H:20].COc1ccc(S(=O)(=O)NCC[N:21]2CCOCC2)c(OC)c1OC 10=20;20,21=21",
"Cc1cc(C)[n:10]c(NS(=O)(=O)c2ccc([NH3+])cc2)n1.NS(=O)(=O)c1ccsc1C(=O)[O:21][H:20]>>Cc1cc(C)[n+:10]([H:20])c(NS(=O)(=O)c2ccc([NH3+])cc2)n1.NS(=O)(=O)c1ccsc1C(=O)[O-:21] 10=20;20,21=21",
"CC1CCCC(C(=O)[O-])[NH:10]1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC1CCCC(C(=O)[O-])[NH+:10]1[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CCOC(=O)CC(c1ccccc1)[N+:21](C)(C)[H:20].Cc1nc2c(n1C)[N-:10]C(=O)NC2=O>>CCOC(=O)CC(c1ccccc1)[N:21](C)C.Cc1nc2c(n1C)[N:10]([H:20])C(=O)NC2=O 10=20;20,21=21",
"CC(C)C[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(C)C[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"Cc1ccc(C(=O)[O:21][H:20])c(C)c1.c1cncc(CC[NH2:10])c1>>Cc1ccc(C(=O)[O-:21])c(C)c1.c1cncc(CC[NH2+:10][H:20])c1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCC(=O)[O-]>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCC(=O)[O-])[H:20] 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])c[nH]1.Cc1nc(N)c2cn[nH]c2[n:10]1>>Cc1cc(C(=O)[O-:21])c[nH]1.Cc1nc(N)c2cn[nH]c2[n+:10]1[H:20] 10=20;20,21=21",
"C1=CC=CC(=[O+:21][H:20])C=C1.CN(C)c1ccc(C(c2ccc(N(C)C)cc2)=[NH:10])cc1>>C1=CC=CC(=[O:21])C=C1.CN(C)c1ccc(C(c2ccc(N(C)C)cc2)=[NH+:10][H:20])cc1 10=20;20,21=21",
"CC([NH3+])CCC(=O)[O:21][H:20].CO[N-:10]C1=CC(=O)N(C)C(=O)N1C>>CC([NH3+])CCC(=O)[O-:21].CO[N:10](C1=CC(=O)N(C)C(=O)N1C)[H:20] 10=20;20,21=21",
"CSc1ncnc2c1cn[n-:10]2.C[N+:21](C)(c1ccc(N=O)cc1)[H:20]>>CSc1ncnc2c1cn[n:10]2[H:20].C[N:21](C)c1ccc(N=O)cc1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20] 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])ccc1[N-:10]N=C(C#N)C#N.c1c(CN2CC[NH2+]CC[NH+:21]([H:20])CC2)n[nH]c1CN1CCNCC[NH2+]CC1>>Cc1cc([N+](=O)[O-])ccc1[N:10](N=C(C#N)C#N)[H:20].c1c(CN2CC[NH2+]CC[NH:21]CC2)n[nH]c1CN1CCNCC[NH2+]CC1 10=20;20,21=21",
"C[N+](C)(C)CCc1cccc([O:21][H:20])c1.Cc1ccc(S(=O)(=O)[N-:10]CC(=O)[O-])cc1>>C[N+](C)(C)CCc1cccc([O-:21])c1.Cc1ccc(S(=O)(=O)[N:10](CC(=O)[O-])[H:20])cc1 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])cc2c1nnn2[O-:10].O=C(Cc1ccccc1)N[O:21][H:20]>>Cc1cc([N+](=O)[O-])cc2c1nnn2[O:10][H:20].O=C(Cc1ccccc1)N[O-:21] 10=20;20,21=21",
"CC/C=C/C(=O)[O-:10].c1ccc(C[N+:21]2([H:20])CCCC2)cc1>>CC/C=C/C(=O)[O:10][H:20].c1ccc(C[N:21]2CCCC2)cc1 10=20;20,21=21",
"C[C@@H]1[C@@H](N)[C@H]1[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@@H]1[C@@H](N)[C@H]1[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1c2ccccc2[nH+]c2ccc([O:21][H:20])cc12.[O-]c1c(O)cccc1[O-:10]>>Nc1c2ccccc2[nH+]c2ccc([O-:21])cc12.[O-]c1c(O)cccc1[O:10][H:20] 10=20;20,21=21",
"CCCC[NH:10]CC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCC[NH+:10](CC(=O)[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC1=NS(=O)(=O)c2ncccc2[N:21]1[H:20].O=Cc1ccc([O-:10])cc1Cl>>CC1=NS(=O)(=O)c2ncccc2[N-:21]1.O=Cc1ccc([O:10][H:20])cc1Cl 10=20;20,21=21",
"Cc1o[n+:21]([H:20])c(C)c1C.O=[N+]([O-])c1cc(C[N:10]2CCCCC2)c([O-])c2ccccc12>>Cc1o[n:21]c(C)c1C.O=[N+]([O-])c1cc(C[N+:10]2([H:20])CCCCC2)c([O-])c2ccccc12 10=20;20,21=21",
"CC1=C(CC(C)[NH+:21](CC(O)c2ccc(C)cc2)[H:20])CCC1(C)C.Cc1cc([S-])[n:10]c([S-])n1>>CC1=C(CC(C)[NH:21]CC(O)c2ccc(C)cc2)CCC1(C)C.Cc1cc([S-])[n+:10]([H:20])c([S-])n1 10=20;20,21=21",
"CC(C)(C)CCC(=O)[O-:10].CN/C=[NH+]/c1cccc(-c2csc(N=C(N)N)[n+:21]2[H:20])c1>>CC(C)(C)CCC(=O)[O:10][H:20].CN/C=[NH+]/c1cccc(-c2csc(N=C(N)N)[n:21]2)c1 10=20;20,21=21",
"CC([NH3+])C(=O)[O:21][H:20].O=C(C1CCCCn2nnnc21)[O-:10]>>CC([NH3+])C(=O)[O-:21].O=C(C1CCCCn2nnnc21)[O:10][H:20] 10=20;20,21=21",
"Nc1sc(Cl)c[n+:21]1[H:20].O=[N+]([O-])[N-:10]c1nnn[nH]1>>Nc1sc(Cl)c[n:21]1.O=[N+]([O-])[N:10](c1nnn[nH]1)[H:20] 10=20;20,21=21",
"C[NH:10]CCCNC(=O)/C=N/[O-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10](CCCNC(=O)/C=N/[O-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C=CC(CC(C)(C)C)c1ccc2ccc[n+:21]([H:20])c2c1O.[NH3+]CCc1cccc[n:10]1>>C=CC(CC(C)(C)C)c1ccc2ccc[n:21]c2c1O.[NH3+]CCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)[NH+](CCC(c1ccccc1)c1cccc[n+:21]1[H:20])C(C)C.Cc1cc2c(cc1[N+](=O)[O-])c(NCCC[NH+](C)C)cc[n:10]2>>CC(C)[NH+](CCC(c1ccccc1)c1cccc[n:21]1)C(C)C.Cc1cc2c(cc1[N+](=O)[O-])c(NCCC[NH+](C)C)cc[n+:10]2[H:20] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCC(N)=NO>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCC(N)=NO)[H:20] 10=20;20,21=21",
"CCCC[NH+](CCCC)CC[S:21][H:20].Nc1ncnc2c1ncn2[C@H]1O[C@@H](CO)[C@H]([O-:10])[C@@H]1O>>CCCC[NH+](CCCC)CC[S-:21].Nc1ncnc2c1ncn2[C@H]1O[C@@H](CO)[C@H]([O:10][H:20])[C@@H]1O 10=20;20,21=21",
